US07326729B2
To a stirred 300 mL CH2Cl2 solution in a −78° C. cooling bath was added chlorosulfonic acid (14.5 mL, 217.8 mmol). A solution of 3-methoxythiophene (10.0 g, 87.59 mmol) in 80 mL of CH2Cl2 was added slowly along the side wall of the flask. After 30 min, the cooling bath was removed. Reaction was continued at room temperature for 2 h. Stirring was stopped, the mixture was set still for approximately 10 min, and filtered directly and carefully through a 2-in silica gel pad. The green glue residue was extracted several times with CH2Cl2 and filtered. The filtrate was concentrated under reduced pressure to afford 10.75 g (58%) of thiophene-sulfonyl chloride as an off-white (trace green-grey) solid.

reactant | chlorosulfonic acid | 217.8 mmol, 14.5 mL | ClS(=O)(=O)O | ClHO3S
reactant | 3-methoxythiophene | 87.59 mmol, 10.0 g | COC1=CSC=C1 | C5H6OS
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
product | thiophene-sulfonyl chloride | 10.75 g, 58% | S1C(=CC=C1)S(=O)(=O)Cl | C4H3ClO2S2
